US09328124B2
N-[(4aR,7aR)-7a-Pyrazin-2-yl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
Trifluoroacetic acid (1.5 mL) is added to a stirred solution of tert-butyl(4aR,7aR)-2-benzamido-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate (299 mg, 0.680 mmol) in dichloromethane (6 mL) at room temperature. The reaction is stirred at room temperature for 80 minutes and the solvent is evaporated under reduced pressure. The resulting residue is dissolved in methanol (20 mL) and this solution is loaded onto an ion exchange column and eluted with methanol then with 7 M ammonia/methanol solution. The basic fraction is collected and concentrated under reduced pressure to give the title compound (231 mg, quantitative). ES/MS (m/e): 340 (M+1).

reactant | Trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl(4aR,7aR)-2-benzamido-7a-pyrazin-2-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 0.680 mmol, 299 mg | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OC(C)(C)C)C2=NC=CN=C2 | C22H25N5O3S
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | N-[(4aR,7aR)-7a-Pyrazin-2-yl-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 231 mg | N1=C(C=NC=C1)[C@@]12N=C(SC[C@@H]1CNC2)NC(C2=CC=CC=C2)=O | C17H17N5OS
